US04278676
(b) Ethyl 1-methoxycarbonyl-3-oxopiperidine-4-carboxylate ethylene acetal (VIIIa)
A mixture of ethyl 1-methoxycarbonyl-3-oxopiperidine-4-carboxylate (9.0 g; 39 mmol), ethylene glycol (100 ml), 4-toluenesulfonic acid (0.7 g), and benzene (500 ml) was refluxed for 6 days using a Dean-Stark water separator. The mixture was washed with aqueous sodium carbonate (300 ml; 1 M), water (300 ml), and saturated aqueous sodium chloride (300 ml). The organic phase was dried (K2CO3) and evaporated in vacuo to give 8.6 of an oil. CC [silica gel (Woelm 0.063-0.1 mm): 350 g; eluents: methylene chloride to which ethyl acetate (20-35%) was added] followed by ball-tube distillation at 40 Pa (oven temperature 170° C.) gave VIIIa (7.0 g; 65%) as a colourless oil. IR (film): 2970 (s), 2900 (s), 1730 (s) cm-1. 1H NMR (CCl4): δ4.05 (q, J 7 Hz) and 3.92 (s) (a total of 6H), 3.60 (s) and 3.7-3.0 (m) (a total of 7H), 2.8-2.5 (1H, t), 2.2-1.6 (2H, m), 1.23 (3H, t, J 7 Hz).

reactant | ethyl 1-methoxycarbonyl-3-oxopiperidine-4-carboxylate | 39 mmol, 9.0 g | COC(=O)N1CC(C(CC1)C(=O)OCC)=O | C10H15NO5
reactant | ethylene glycol | 100 ml | C(CO)O | C2H6O2
reactant | 4-toluenesulfonic acid | 0.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Ethyl 1-methoxycarbonyl-3-oxopiperidine-4-carboxylate ethylene acetal | C1COC(OCC)(C2C(CN(CC2)C(=O)OC)=O)O1 | C12H19NO6
